US07399867B2
Dissolve 5-benzyloxy-2-mercapto-phenol (17.8 g, 76.72 mmol) in DMF (300 mL) and add K2CO3 (31.8 g, 0.23 mol) and MeI (32.7 g, 0.23 mol). Stir the reaction mixture at room temperature overnight. Add water (800 mL) and extract the aqueous layer with EtOAc (3×800 mL). Combine the organic layers and dry with Na2SO4, filter, concentrate and purify by flash column chromatography (silica, 5-20% of EtOAc/hexane) to give 13.5 g of 4-benzyloxy-2-methoxy-1-methylsulfanyl-benzene (68%).

reactant | 5-benzyloxy-2-mercapto-phenol | 76.72 mmol, 17.8 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)O)S | C13H12O2S
reactant | K2CO3 | 0.23 mol, 31.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 0.23 mol, 32.7 g | CI | CH3I
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 4-benzyloxy-2-methoxy-1-methylsulfanyl-benzene | 13.5 g, 68% | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)SC)OC | C15H16O2S
